US07479493B2
Step A: [5-Bromo-2-(3,4-dichloro-benzyloxy)-benzyl]-methyl-carbamic acid tert-butyl ester.
A mixture of (5-bromo-2-hydroxy-benzyl)-methyl-carbamic acid tert-butyl ester (1.0 g, 3.2 mmol), K2CO3 (655 mg, 4.74 mmol), and 4-bromomethyl-1,2-dichloro-benzene (1.14 g, 4.74 mmol) in CH3CN (6.3 mL) was heated at 90° C. overnight. The mixture was then cooled to rt, diluted with EtOAc and water, and extracted with EtOAc (3×). The combined organic layers were washed with brine, dried (Na2SO4), and concentrated. Purification by FCC (EtOAc/hexanes) gave the desired product (1.49 g, 99%). 1H NMR (CDCl3, mixture of rotamers): 7.49 (d, J=1.9, 1H), 7.46 (d, J=7.8, 1H), 7.31 (dd, J=8.7, 2.0, 1H), 7.28-7.22 (m, 2H), 6.73 (d, J=8.6, 1H), 5.00 (s, 2H), 4.52-4.38 (m, 2H), 2.90-2.80 (m, 3H), 1.52-1.39 (m, 9H).

reactant | (5-bromo-2-hydroxy-benzyl)-methyl-carbamic acid tert-butyl ester | 3.2 mmol, 1.0 g | C(C)(C)(C)OC(N(C)CC1=C(C=CC(=C1)Br)O)=O | C13H18BrNO3
reactant | K2CO3 | 4.74 mmol, 655 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-bromomethyl-1,2-dichloro-benzene | 4.74 mmol, 1.14 g | BrCC1=CC(=C(C=C1)Cl)Cl | C7H5BrCl2
solvent | CH3CN | 6.3 mL | CC#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | [5-Bromo-2-(3,4-dichloro-benzyloxy)-benzyl]-methyl-carbamic acid tert-butyl ester | 1.49 g, 99% | C(C)(C)(C)OC(N(C)CC1=C(C=CC(=C1)Br)OCC1=CC(=C(C=C1)Cl)Cl)=O | C20H22BrCl2NO3
